US06900215B2
A mixture of crude 2-(3-bromo-2,6-difluorophenyl)pyridine (300 mg, 1.1 mmol), potassium acetate (220 mg, 2.2 mmol) and bis(pinacolato)diboron (350 mg, 1.4 mmol) in 1,4-dioxane (3 ml) was heated at 90° C. for 14 h. The reaction was cooled, filtered (washing the filter cake with a small quantity of diethyl ether) and the filtrate concentrated in vacuo. The residue was stirred with 2N sodium hydroxide (20 ml) for 10 min then filtered. The filtrate was washed with diethyl ether (2×20 ml) and the organics discarded. The aqueous phase was cooled in an ice-water bath, the pH was adjusted to approximately 8 with 5N hydrochloric acid then extracted with diethyl ether. The organics were dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to furnish 2-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine (170 mg, 48%) as a straw-coloured solid: m/z (ES+) 318 (M++H).

reactant | 2-(3-bromo-2,6-difluorophenyl)pyridine | 1.1 mmol, 300 mg | BrC=1C(=C(C(=CC1)F)C1=NC=CC=C1)F | C11H6BrF2N
reactant | potassium acetate | 2.2 mmol, 220 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.4 mmol, 350 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | 170 mg, 48% | FC1=C(C(=CC=C1B1OC(C(O1)(C)C)(C)C)F)C1=NC=CC=C1 | C17H18BF2NO2
